US07622508B2
a. Preparation of methoxycarbonylmethylsulfanyl-acetic acid tert-butyl ester
To a solution of mercapto-acetic acid methyl ester (1.0 g, 9.42 mmol) in dimethylformamide (10 mL) at room temperature was added potassium carbonate (1.69 g) followed by bromo-acetic acid tert-butyl ester (1.84 g, 9.42 mmol). The resulting suspension was stirred at ambient temperature overnight and then diluted with hexanes. The organic layer was washed with water three times and brine once, dried over sodium sulfate, filtered and concentrated to give a colorless oil, which was used directly in next step without purification. 1H NMR (CDCl3, 300 MHz) δ (ppm): 3.72 (s, 3H), 3.37 (s, 2H), 3.27 (s, 2H), 1.45 (s, 9H).

reactant | mercapto-acetic acid methyl ester | 9.42 mmol, 1.0 g | COC(CS)=O | C3H6O2S
reactant | potassium carbonate | 1.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromo-acetic acid tert-butyl ester | 9.42 mmol, 1.84 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | methoxycarbonylmethylsulfanyl-acetic acid tert-butyl ester | C(C)(C)(C)OC(CSCC(=O)OC)=O | C9H16O4S
